US06921763B2
To a mixture of (S)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate (3.4 g, 0.0077 mol) in acetone (80 mL) was added an aqueous 6N solution of hydrogen chloride (20 mL) at room temperature. The mixture was stirred at 45° C. for 4 hours, then at room temperature for 18 hours. Acetone was removed under reduced pressure, and the aqueous layer was washed with toluene (2×20 mL) and dichloromethane (2×20 mL). The aqueous layer was basified with an aqueous 5N solution of sodium hydroxide (25 mL) at 0° C. The aqueous layers were concentrated to dryness, and the residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 2%-30% over 15 min with 0.1 M ammonium acetate, 21 mL/min) to yield (S)-3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine acetate (0.75 g, 0.0019 mol).

reactant | (S)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.0077 mol, 3.4 g | NC1=C2C(=NC=N1)N(N=C2I)[C@@H]2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | hydrogen chloride | 20 mL | Cl | ClH
reactant | acetone | 80 mL | CC(=O)C | C3H6O
product | (S)-3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine acetate | 0.0019 mol, 0.75 g | C(C)(=O)O.IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CNCCC2 | InChI=1S/C10H13IN6.C2H4O2/c11-8-7-9(12)14-5-15-10(7)17(16-8)6-2-1-3-13-4-6;1-2(3)4/h5-6,13H,1-4H2,(H2,12,14,15);1H3,(H,3,4)/t6-;/m0./s1
